US04024134
3-Acetoxymethyl-7β-[2-(2-chloroethylcarbamoyloxyimino)-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylic acid (syn-isomer)
A solution of sodium 3-acetoxymethyl-7β-[2-hydroxyimino-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylate (syn-isomer; 0.89 g) in dimethylformamide (11 ml.) containing triethylamine (0.22 g) was treated with 2-chloroethylisocyanate (0.25 g). The solution was allowed to stand at room temperature for thirty minutes, then at 5° for a further hour. It was poured into cold (5°) 2N hydrochloric acid, extracted three times with ethyl acetate, and the combined extracts washed with 2N-hydrochloric acid then water then extracted three times with a cold (5°) saturated aqueous sodium bicarbonate solution. The combined aqueous extracts were washed with ethyl acetate, acidified (2N-hydrochloric acid) and apidly extracted with ethyl acetate. The combined extracts were dried, concentrated to ca. 5 ml., and the concentrate added dropwise to petroleum (b.p. 40°-60° 250 ml.) The precipitated solid was filtered and dried to give the title acid (0.8 g; 76%), [α]D +33° (c 0.7 DMSO) λmax. (pH 6 phosphate buffer) 264 nm. (ε 17,200), νmax. (Nujol), 1786 (β-lactam), 1734 (acetate), 1682 and 1508 cm.-1 (CONH), τ (DMSO-d6) values include 0.12 (doublet J 9 Hz; NH), 2.12, 2.56, 2.74 (three guartets; thienyl protons), 7.97 (s; OCOCH3).

reactant | sodium 3-acetoxymethyl-7β-[2-hydroxyimino-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylate | 0.89 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(C(C=2SC=CC2)=NO)=O)=O.[Na+]
reactant | 2-chloroethylisocyanate | 0.25 g | ClCCN=C=O | C3H4ClNO
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | phosphate | pH 6 | P(=O)([O-])([O-])[O-]
reactant | acetate | C(C)(=O)[O-]
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
product | 3-Acetoxymethyl-7β-[2-(2-chloroethylcarbamoyloxyimino)-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C=2SC=CC2)=NOC(NCCCl)=O)=O)=O | C19H19ClN4O8S2
